US08106064B2
1-Bromomethyl-3-dimethoxymethyl-5-methyl-benzene:
A mixture of crude 3-bromomethyl-5-methyl-benzaldehyde (21 g, 98.51 mmol), trimethyl orthoformate (21.88 ml), and p-toluenesulfonic acid monohydrate (1.9 g) in anhydrous methanol (100 ml) was refluxed for 2 hr. After cooling to room temperature, the mixture was evaporated in vacuo. The residue was dissolved in ether, washed with aqueous sodium bicarbonate solution, dried with anhydrous magnesium sulfate, filtered, and evaporated in vacuo to give a crude product as a pale brown oil. The crude product was purified by silica gel column chromatography (eluent, ether:hexanes (1:9)) to afford 7.6 g (29% for 2 steps) of a colorless oil. 1H NMR (300 MHz, CDCl3) δ 2.35 (3H, s), 3.33 (6H, s), 4.47 (2H, s), 5.32 (1H, s), 7.17 (1H, s), 7.19 (1H, s), 7.27 (1H, s).

reactant | 3-bromomethyl-5-methyl-benzaldehyde | 98.51 mmol, 21 g | BrCC=1C=C(C=O)C=C(C1)C | C9H9BrO
reactant | trimethyl orthoformate | 21.88 ml | C(OC)(OC)OC | C4H10O3
reactant | p-toluenesulfonic acid monohydrate | 1.9 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 100 ml | CO | CH4O
product | 1-Bromomethyl-3-dimethoxymethyl-5-methyl-benzene | BrCC1=CC(=CC(=C1)C)C(OC)OC | C11H15BrO2
